US07884207B2
Methanesulfonyl chloride (2.1 mL, 27.4 mmol) was added dropwise to a solution of 3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propan-1-ol (6.80 g, 24.9 mmol) and triethylamine (4.20 mL, 29.9 mmol) in dichloromethane (100 mL) at 0° C. The solution was stirred for 2 h at 0° C., then was diluted with dichloromethane (20-25 mL) and saturated aqueous sodium bicarbonate (70 mL). The layers were separated and the aqueous layer was extracted with dichloromethane (40 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated to afford 3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl methanesulfonate as a pale oil that was used directly in the next step.

reactant | Methanesulfonyl chloride | 27.4 mmol, 2.1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propan-1-ol | 24.9 mmol, 6.80 g | [Si](C)(C)(C(C)(C)C)OC1(CCCCC1)CCCO | C15H32O2Si
reactant | triethylamine | 29.9 mmol, 4.20 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20-25 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 70 mL | C([O-])(O)=O.[Na+]
product | 3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl methanesulfonate | CS(=O)(=O)OCCCC1(CCCCC1)O[Si](C)(C)C(C)(C)C | C16H34O4SSi
